US07696216B2
To a solution of 25 g (150 mmol) 5-hydroxy-2-nitro-benzaldehyde and 44.8 g (299 mmol) sodium iodide in 400 ml acetone are added 51.2 ml (299 mmol) N-ethyldiisopropylamine and 25.3 ml (299 mmol) allyl bromide. After stirring for 18 h at r.t. the reaction mixture is filtered and the solvent is evaporated. Extraction of the residue with 1 M aqueous hydrochloric acid/dichloromethane followed by chromatography (hexane/ethyl acetate) yields 5-allyloxy-2-nitro-benzaldehyde.

reactant | 5-hydroxy-2-nitro-benzaldehyde | 150 mmol, 25 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | sodium iodide | 299 mmol, 44.8 g | [I-].[Na+]
reactant | N-ethyldiisopropylamine | 299 mmol, 51.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 299 mmol, 25.3 ml | C(C=C)Br | C3H5Br
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 5-allyloxy-2-nitro-benzaldehyde | C(C=C)OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C10H9NO4
